US07348318B2
Synthesis of (3S)-3-amino-1-bis(ethylamino)phosphinyl-2-piperidone
Palladium black (60 mg) was added to a solution of (3S)-3-benzyloxycarbonylamino-1-bis(ethylamino)phosphinyl-2-piperidone (600.3 mg, 1.5698 mmol) in methanol (6 mL), and the resulting mixture was stirred at room temperature for 3 hours under a hydrogen atmosphere.

reactant | (3S)-3-benzyloxycarbonylamino-1-bis(ethylamino)phosphinyl-2-piperidone | 1.5698 mmol, 600.3 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CCC1)P(=O)(NCC)NCC)=O | C17H27N4O4P
solvent | methanol | 6 mL | CO | CH4O
catalyst | Palladium black | 60 mg | [Pd] | Pd
product | (3S)-3-amino-1-bis(ethylamino)phosphinyl-2-piperidone | N[C@@H]1C(N(CCC1)P(=O)(NCC)NCC)=O | C9H21N4O2P
